US09302996B2
Methanol (7 mL) was added to ethyl 1-[({4-methyl-6′-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl}oxy)methyl]-cyclobutanecarboxylate (343 mg), 1N aqueous sodium hydroxide solution (2.9 mL) was further added to the mixture and the resulting mixture was refluxed for 1 hour. Methanol was distilled off under reduced pressure, and the residue was neutralized by 1N hydrochloric acid. The mixture was extracted with ethyl acetate, the organic layer was washed with a saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to obtain 1-[({4-methyl-6′-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl}oxy)methyl]-cyclobutanecarboxylic acid.

reactant | ethyl 1-[({4-methyl-6′-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl}oxy)methyl]-cyclobutanecarboxylate | 343 mg | CC1=C(C=NC(=C1)OCC1(CCC1)C(=O)OCC)C=1C=NC(=CC1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C | C29H37F3N4O4Si
reactant | sodium hydroxide | 1N, 2.9 mL | [OH-].[Na+]
solvent | Methanol | 7 mL | CO | CH4O
product | 1-[({4-methyl-6′-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]-3,3′-bipyridin-6-yl}oxy)methyl]-cyclobutanecarboxylic acid | CC1=C(C=NC(=C1)OCC1(CCC1)C(=O)O)C=1C=NC(=CC1)C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C | C27H33F3N4O4Si
